US07601728B2
tert-Butyl {(3R)-1-[7-acetyl-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Manganese dioxide (0.66 g) was added to a solution of crude tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-(1-hydroxyethyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (167 mg) in dichloromethane (5 ml), and the resulting mixture was stirred overnight at room temperature. Then, the reaction solution was heated to 45° C. and stirred for 3 hours. The reaction solution was filtered through Celite and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (33 mg).

reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-(1-hydroxyethyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 167 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C(C)O)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C27H36ClN5O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 0.66 g | [O-2].[O-2].[Mn+4]
product | tert-Butyl {(3R)-1-[7-acetyl-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 33 mg | C(C)(=O)C1=C(N(C2=C1N(C(N(C2=O)C)=O)C)CC2=C(C=CC=C2)Cl)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C27H34ClN5O5
